US07435744B2
6-[2-(4-Benzyl-piperidin-1-yl)-1-methyl-2-oxo-ethylamino]-3H-benzoxazol-2-one (45 70002184)
A mixture of 1.03 g (3.33 mmol) of 1-(4-benzyl-piperidine-1-yl)-2-bromo-propan-1-one, 0.5 g (3.33 mmol) of 6-amino-3H-benzoxazol-2-one, 1.0 g (7.2 mmol) of potassium carbonate and 15 ml of dimethylformamide is refluxed for 5 hours. The reaction mixture is filtered and the filtrate is concentrated. The residue is purified by column chromatography using Kieselgel 60 adsorbent (Merck) and hexane:ethyl acetate=4:1 as eluent to yield 0.46 g (36.5%) of the title compound. Melting Point: 91° C. (hexane)

reactant | 1-(4-benzyl-piperidine-1-yl)-2-bromo-propan-1-one | 3.33 mmol, 1.03 g | C(C1=CC=CC=C1)C1CCN(CC1)C(C(C)Br)=O | C15H20BrNO
reactant | 6-amino-3H-benzoxazol-2-one | 3.33 mmol, 0.5 g | NC1=CC2=C(NC(O2)=O)C=C1 | C7H6N2O2
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6-[2-(4-Benzyl-piperidin-1-yl)-1-methyl-2-oxo-ethylamino]-3H-benzoxazol-2-one | 0.46 g, 36.5% | C(C1=CC=CC=C1)C1CCN(CC1)C(C(C)NC1=CC2=C(NC(O2)=O)C=C1)=O | C22H25N3O3
